US09163021B2
{5-[(diphenylmethylene)amino]pyridin-3-yl}(7-fluoro-1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone
Prepared according to the method described for Preparation 36 using 3-bromo-7-fluoro-1-isopropyl-1H-pyrrolo[3,2-c]pyridine (Preparation 46) and 5-[(diphenylmethylene)amino]-N-methoxy-N-methylnicotinamide (Preparation 52). Taken on directly to the next step.

reactant | 3-bromo-7-fluoro-1-isopropyl-1H-pyrrolo[3,2-c]pyridine | BrC1=CN(C2=C1C=NC=C2F)C(C)C | C10H10BrFN2
reactant | 5-[(diphenylmethylene)amino]-N-methoxy-N-methylnicotinamide | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=NC=C(C(=O)N(C)OC)C1 | C21H19N3O2
product | {5-[(diphenylmethylene)amino]pyridin-3-yl}(7-fluoro-1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(C)C | C29H23FN4O
